US07348438B2
1-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-butan-2-one oxime
1-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-butan-2-one (339 mg, 1 mmol), hydroxylamine hydrochloride (227.5 mg, 3.25 mmol) and pyridine (3 mL) in ethanol (3 mL) were heated to 70° C. for 5 hours. The reaction mixture was then poured into water and extracted with EtOAc. The organic layer was washed with 15% NaCl, brine, then dried over anhydrous MgSO4. The solvent was distilled out under reduced pressure. Column chromatography (silica gel, EtOAc/hexanes (0% to 60%) yielded the title compound as a white solid.

reactant | 1-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-butan-2-one | 1 mmol, 339 mg | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC(CC)=O)C=C1Cl | C13H11Cl2F3N2O
reactant | hydroxylamine hydrochloride | 3.25 mmol, 227.5 mg | Cl.NO
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-[5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-benzoimidazol-1-yl]-butan-2-one oxime | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC(CC)=NO)C=C1Cl | C13H12Cl2F3N3O
